US05914328
27a. 4-methyl-3-pyridyl diethylcarbamate
To the cooled (-78° C.) solution of TMEDA (516.5 mg, 4.40 mmol) in anhydrous THF (10 mL) was slowly added sec-butyl lithium (1.3 M, 3.38 mL, 4.40 mmol), and the resultant solution was stirred at -78° C. for 10 minutes. 3-Pyridyl diethylcarbamate (776 mg, 4.0 mmol) in THF (3 mL) was slowly added, and the mixture was stirred at -78° C. for 30 minutes. Iodomethane (275.4 μL, 4.40 mmol) was then added, and the mixture was stirred for two hours. Brine (1 mL) was added, and the mixture was slowly warmed up to room temperature. The organic layer was decanted, and the residue washed with ethyl acetate (3×5 mL). The combined organic layers were dried (Na2SO4) and concentrated. The crude product was purified by chromatography on silica gel eluting with hexane/EtOAc (1:2 and 0:1) to provide 765 mg (92% yield) of the title compound. TLC Rf 0.28 (1:2 hexane/EtOAc). MS (DCI/NH3) m/e 209 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.34 (s, 1H, ArH), 8.32 (d, J=6.9 Hz, 1H, ArH), 7.16 (d, J=69 Hz, 1H, ArH), 3.48 (q, J=7.5 Hz, 2H, NCH2), 3.41 (q, J=7.5 Hz, 2H, NCH2), 1.28 (t, J=7.5 Hz, 3H, CH3), 1.22 (t, J=7.5 Hz, 3H, CH3).

reactant | TMEDA | 4.40 mmol, 516.5 mg | CN(C)CCN(C)C | C6H16N2
reactant | sec-butyl lithium | 4.40 mmol, 1.3 M, 3.38 mL | C(C)(CC)[Li]
reactant | 3-Pyridyl diethylcarbamate | 4.0 mmol, 776 mg | C(C)N(C(OC=1C=NC=CC1)=O)CC | C10H14N2O2
reactant | Iodomethane | 4.40 mmol, 275.4 μL | IC | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | Brine | 1 mL | [Cl-].[Na+].O
product | 4-methyl-3-pyridyl diethylcarbamate | 765 mg, 92% yield | C(C)N(C(OC=1C=NC=CC1C)=O)CC | C11H16N2O2
